### PR TITLE
[Merged by Bors] - feat : rework enough-injectiveness proof of groups using character module

### PR DESCRIPTION
**Pull request by jjaassoonn**
For $R$-modules $M$ and $D$ where $D$ is injective, we can consider the dual module $M^\star := \mathrm{Hom}_R(M, D)$. 
$(\cdot^\star)$ can define a contravariant functor $R$-mod to $R$-mod by $L \mapsto L^\star$ where $L^\star f = f \circ L$ where $L \in \mathrm{Hom}_R(M, N)$ and $f \in N^\star$. This functor sends monomorphisms to epimorphisms.

For an abelian group $A$, it is useful to consider its character module in the unit rational circle. This construction appears in proof of enough-injectiveness of groups and it can be shown that a module is flat if and only if its character module is injective, [reference](https://www.cambridge.org/core/journals/canadian-mathematical-bulletin/article/module-is-flat-if-and-only-if-its-character-module-is-injective/8D9669F28AC4DE35A1D65EA864F9B5DE). Hence we use Baer to relate ideals. 

Also refactored enough-injectiveness of abelian groups. The refactor is not a separated PR because construction of character module needs some result from `GroupCat/Injective.lean` file. 

---

- [x] depends on: #10766 (need this for module structure of character modules)
- [x] depends on: #10767 (definition of character modules)

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by alreadydone — COMMENTED** [review]
more to follow

File: Mathlib/Algebra/Category/GroupCat/Injective.lean [hunk 1]
```diff
@@ -72,72 +72,157 @@ instance injective_ratCircle : Injective <| of <| ULift.{u} <| AddCircle (1 : 
...
-  (A_ ⟶ of <| ULift.{u} <| AddCircle (1 : ℚ)) → ULift.{u} (AddCircle (1 : ℚ))
+variable (R : Type u) [CommRing R]
+variable (M : Type w) [AddCommGroup M] [Module R M]
+variable (N : Type w') [AddCommGroup N] [Module R N]
 
-instance : Injective <| next A_ :=
+/--
+If `M` is an abelian group, its character module is defined to be the `Hom_ℤ(M, ℚ/ℤ)`
+-/
+def CharacterModule : Type w := M →ₗ[ℤ] (ULift.{w} <| AddCircle (1 : ℚ))
```
Comment (alreadydone) [inline Mathlib/Algebra/Category/GroupCat/Injective.lean:86]: I think this should be defined in another file and we should move everything not involving category theory there.

File: Mathlib/Algebra/Category/GroupCat/Injective.lean [hunk 2]
```diff
@@ -72,72 +72,159 @@ instance injective_ratCircle : Injective <| of <| ULift.{u} <| AddCircle (1 : 
...
+
+instance : AddMonoidHomClass (CharacterModule M) M (ULift <| AddCircle (1 : ℚ)) where
+  coe f := f
+  coe_injective' _ _ h := FunLike.ext _ _ fun _ => congr_fun h _
+  map_add f := f.map_add
+  map_zero f := f.map_zero
+
+instance : AddCommGroup (CharacterModule M) := by
+  delta CharacterModule
+  infer_instance
```
[the remark this answers is not in the document]
Comment (jjaassoonn) [reply Mathlib/Algebra/Category/GroupCat/Injective.lean]: I think making it a `def` should make the following instance `Module R (CharacterModule M)` mentally easier to justify as `CharacterModule` is a separate type, so having its own instances is okay

File: Mathlib/Algebra/Module/CharacterModule.lean [hunk 3]
```diff
@@ -0,0 +1,252 @@
...
+For commutative ring `R` and an `R`-module `M`, its character module `M⋆` is defined to be
+`ℤ`-linear maps `M ⟶ ℚ ⧸ ℤ`.
+
+`M⋆` also has an `R`-module structure given by `(r • f) m = f (r • m)`.
+
+## Main results
+
+- `CharacterModuleFunctor` : the contravariant functor of `R`-modules where `M ↦ M⋆` and
+an `R`-lineara map `l : M ⟶ N` induces an `R`-linear map `l⋆ : f ↦ l ∘ f` where `f : N⋆`.
+- `LinearMap.charaterfy_surjective_of_injective` : If `l` is injective then `l⋆` is surjective,
```
Comment (AntoineChambert-Loir) [inline Mathlib/Algebra/Module/CharacterModule.lean:25]: what does charaterfy means? characterfy?

Comment (jjaassoonn) [reply Mathlib/Algebra/Module/CharacterModule.lean:25]: To transform a linear map into a map between characters. For lack of a better name and wanting to use `LinearMap` dot notation, I choose this name

Comment (AntoineChambert-Loir) [reply Mathlib/Algebra/Module/CharacterModule.lean:25]: OK, so maybe `characterify` would be better. (In any case, at least add a `c` before the `t`).

Comment (jjaassoonn) [reply Mathlib/Algebra/Module/CharacterModule.lean:25]: done, the typo is slightly embracing 😅

File: Mathlib/Algebra/Category/GroupCat/EnoughInjectives.lean [hunk 4]
```diff
@@ -0,0 +1,46 @@
...
+Authors: Jujian Zhang, Junyan Xu
+-/
+
+import Mathlib.Algebra.Module.CharacterModule
+
+/-!
+
+# Category of abelian groups has enough injectives
+
+Given an abelian group `A`, then `i : A ⟶ ∏_{A⋆} ℚ ⧸ ℤ` defined by `i : a ↦ c ↦ c a` is an
```
[the remark this answers is not in the document]
Comment (jjaassoonn) [reply Mathlib/Algebra/Category/GroupCat/EnoughInjectives.lean:13]: Sorry for the late reply. After reading wikipedia, I think I generalized character module a bit to be able to accomodate Matlis duality in [f5d0f8c](https://github.com/leanprover-community/mathlib4/pull/8559/commits/f5d0f8c5d1fd0217eb89abda437f576f94ce0028), could you please check if this is what you meant? I haven't clean up the docs yet.

File: Mathlib/Algebra/Module/CharacterModule.lean [hunk 5]
```diff
@@ -0,0 +1,252 @@
...
+instance : AddMonoidHomClass (CharacterModule M) M (ULift <| AddCircle (1 : ℚ)) where
+  coe f := f
+  coe_injective' _ _ h := FunLike.ext _ _ fun _ ↦ congr_fun h _
+  map_add f := f.map_add
+  map_zero f := f.map_zero
+
+instance : AddCommGroup (CharacterModule M) :=
+  inferInstanceAs <| AddCommGroup <| M →ₗ[ℤ] ULift.{w} <| AddCircle (1 : ℚ)
+
+instance : Module R (CharacterModule M) where
```
[the remark this answers is not in the document]
Comment (jjaassoonn) [reply Mathlib/Algebra/Module/CharacterModule.lean]: After changing `CharacterModule` definition, this instance is no-longer necessary

File: Mathlib/Algebra/Module/CharacterModule.lean [hunk 6]
```diff
@@ -0,0 +1,252 @@
...
+
+universe u w w'
+variable (R : Type u) [CommRing R]
+variable (M : Type w) [AddCommGroup M] [Module R M]
+variable (N : Type w') [AddCommGroup N] [Module R N]
+
+/--
+If `M` is an abelian group, its character module is defined to be the `Hom_ℤ(M, ℚ/ℤ)`
+-/
+def CharacterModule : Type w := M →ₗ[ℤ] (ULift.{w} <| AddCircle (1 : ℚ))
```
[the remark this answers is not in the document]
Comment (jjaassoonn) [reply Mathlib/Algebra/Module/CharacterModule.lean]: After the generalization made in [f5d0f8c](https://github.com/leanprover-community/mathlib4/pull/8559/commits/f5d0f8c5d1fd0217eb89abda437f576f94ce0028), definitely linear maps

File: Mathlib/Algebra/Module/CharacterModule.lean [hunk 7]
```diff
@@ -33,31 +34,32 @@ an `R`-lineara map `l : M ⟶ N` induces an `R`-linear map `l⋆ : f ↦ l ∘ f
...
+variable (M : Type (max uR uM)) [AddCommGroup M] [Module R M]
+variable (N : Type (max uR uN)) [AddCommGroup N] [Module R N]
+variable (D : Type (max uR uD)) [AddCommGroup D] [Module R D]
+variable [injective_dual : Injective <| ModuleCat.of R D]
 
 /--
 If `M` is an abelian group, its character module is defined to be the `Hom_ℤ(M, ℚ/ℤ)`
 -/
-def CharacterModule : Type w := M →ₗ[ℤ] (ULift.{w} <| AddCircle (1 : ℚ))
+def CharacterModule : Type (max uR uM uD) := M →ₗ[R] D
```
Comment (alreadydone) [inline Mathlib/Algebra/Module/CharacterModule.lean:47]: Why do you need `uR` here? And why do you need to write `CharacterModule.{uR, uM, uD}` everywhere?

File: Mathlib/Algebra/Module/Character.lean [hunk 8]
```diff
@@ -0,0 +1,140 @@
...
+  map_add f := f.map_add
+  map_zero f := f.map_zero
+
+instance : AddCommGroup (CharacterModule M) := by
+  delta CharacterModule
+  infer_instance
+
+instance : Module R (CharacterModule M) where
+  smul r l :=
+  { toFun := fun x => l (r • x)
```
Comment (alreadydone) [inline Mathlib/Algebra/Module/Character.lean]: I'm puzzled by how the current state of this PR (and #8906) departed from this original commit. In this commit, the domain M is a (R,Z)-bimodule and the codomain `AddCircle (1 : ℚ)` is only a Z-module, and the R-action on `CharacterModule M` is on the domain (of course). As the PR currently stands, both the domain and the codomain are R-modules and there isn't a second ring, and you're using LinearMap.module to define the R-module structure on `CharacterModule R M D`, which acts on the codomain (but it's equivalent to acting on the domain, because you consider R-linear maps not Z-linear maps).

Are you sure the current definition can still help you prove things about flatness? Do you have it in some branch? I'd be curious to see. My suspicion is that Matlis duality doesn't fit in the same framework as what you want to do.

Comment (jjaassoonn) [reply Mathlib/Algebra/Module/Character.lean]: See #9120.

Comment (jjaassoonn) [reply Mathlib/Algebra/Module/Character.lean]: We can still force the proof to work because `M →ₗ[ℤ] ℚ ⧸ ℤ` is still an `R`-module, but `CharcterModule.(un)curry, cong, homEquiv` cannot be used directly because they will only be `ℤ`-linear, but since they are still true, we can just make another copy of these constructions and use `CharacterModule.unitRationalCircle.(un)curry, cong, homEquiv` which are `R`-linear to prove injectiveness.

File: Mathlib/Algebra/Module/CharacterModule.lean [hunk 9]
```diff
@@ -0,0 +1,280 @@
...
+  -- inferInstanceAs (LinearMapClass (A →+ AddCircle (1 : ℚ)) ℤ A _)
+
+instance : AddCommGroup (CharacterModule A) :=
+  inferInstanceAs (AddCommGroup (A →+ _))
+
+section module
+
+variable [Module R A]  [Module R B]
+
+instance : Module R (CharacterModule A) where
```
[the remark this answers is not in the document]
Comment (jjaassoonn) [reply Mathlib/Algebra/Module/CharacterModule.lean]: done, thanks

**Comment by alreadydone** [comment]
Bumping my comment [here](https://github.com/leanprover-community/mathlib4/commit/09ba7d17c1433fb235229af4c8b0ccb202f71195#r138074934) in case it doesn't show up in your notification for some reason ...

**Comment by jjaassoonn** [comment]
> Bumping my comment [here](https://github.com/leanprover-community/mathlib4/commit/09ba7d17c1433fb235229af4c8b0ccb202f71195#r138074934) in case it doesn't show up in your notification for some reason ...

Indeed I missed your comment, sorry about that. I have incorporated your instances. Thanks!

**Comment by adamtopaz** [comment]
@jjaassoonn Sorry this PR has been sitting for a while. Looking at it now, it seems that this PR should be split up into three: one PR about the additional lemmas about (semi)linear maps; another PR for character modules and their API; a final PR about the use of character modules for the proof of enough injectives. Could you please consider making this split?

File: Mathlib/Algebra/Module/CharacterModule.lean [hunk 10]
```diff
@@ -126,4 +126,88 @@ Linear maps into a character module are exactly characters of tensor product.
...
 
+
+/--
+`ℤ⋆`, the character module of `ℤ` in rational circle
+-/
+protected abbrev int : Type := CharacterModule ℤ
+
+/-- Given `n : ℕ`, the map `m ↦ m / n`. -/
+protected abbrev int.divByNat (n : ℕ) : CharacterModule.int  :=
+  LinearMap.toSpanSingleton ℤ _ (QuotientAddGroup.mk (n : ℚ)⁻¹) |>.toAddMonoidHom
```
Comment (alreadydone) [inline Mathlib/Algebra/Module/CharacterModule.lean:137]: You may consider changing this to a Z-linear map if you're not using it elsewhere, because when defining `ofSpanSingleton` you're converting it back to an LinearMap.

**Review by alreadydone — APPROVED** [review]
I have golfs at [this branch](https://github.com/leanprover-community/mathlib4/compare/zjj/characterModuleImplementation...jyxu/refactorEnoughInjectives?expand=1), otherwise this looks good!
(I renamed `equivZModSpanAddOrderOf` because it's not actually about ZMod.)

Where is the flatness PR? I thought it's #9120 but there's currently no flatness material in it and you just closed it.

**Comment by jjaassoonn** [comment]
> I have golfs at [this branch](https://github.com/leanprover-community/mathlib4/compare/zjj/characterModuleImplementation...jyxu/refactorEnoughInjectives?expand=1), otherwise this looks good!
> 
> Where is the flatness PR? I thought it's #9120 but there's currently no flatness material in it and you just closed it.

I made a mess when merging master and accidentally deleted all flatness material. I have recreate them on branch `zjj/flat`.

File: Mathlib/Algebra/Category/GroupCat/EnoughInjectives.lean [hunk 11]
```diff
@@ -0,0 +1,49 @@
+/-
+Copyright (c) 2023 Jujian Zhang. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Jujian Zhang, Junyan Xu
+-/
+
+import Mathlib.Algebra.Module.CharacterModule
+import Mathlib.Algebra.Category.GroupCat.EquivalenceGroupAddGroup
+
```
Comment (alreadydone) [inline Mathlib/Algebra/Category/GroupCat/EnoughInjectives.lean:9]: The linter complains that `import Mathlib.Algebra.Category.GroupCat.EpiMono` in CharacterModule.lean needs to be moved here.

File: Mathlib/Algebra/Module/CharacterModule.lean [hunk 12]
```diff
@@ -126,4 +126,73 @@ Linear maps into a character module are exactly characters of tensor product.
...
+    · rwa [eq_comm, AddMonoid.addOrderOf_eq_one_iff] at hn
+  · split_ifs with h
+    · norm_num
+    · exact Nat.pos_of_ne_zero h
+
+lemma exists_character_apply_ne_zero_of_ne_zero {a : A} (ne_zero : a ≠ 0) :
+    ∃ (c : CharacterModule A), c a ≠ 0 :=
+  have ⟨c, hc⟩ := dual_surjective_of_injective _ (Submodule.injective_subtype _) (ofSpanSingleton a)
+  ⟨c, fun h ↦ ne_zero <| eq_zero_of_ofSpanSingleton_apply_self a <| by rwa [← hc]⟩
+
```
[the remark this answers is not in the document]
Comment (jjaassoonn) [reply Mathlib/Algebra/Module/CharacterModule.lean:196]: Indeed these are useful. Thanks!

File: Mathlib/Algebra/Module/CharacterModule.lean (hunk 10 above)
Comment (alreadydone) [reply Mathlib/Algebra/Module/CharacterModule.lean]: What do you think about this?

**Comment by alreadydone** [comment]
maintainer merge

**Comment by joelriou** [comment]
Thanks!

bors merge

File: Mathlib/Algebra/Module/CharacterModule.lean (hunk 10 above)
Comment (jjaassoonn) [reply Mathlib/Algebra/Module/CharacterModule.lean]: Thanks. I was trapped in marking today. Sorry for the late reply
